US06342765B1
A mixture of N-tert-butoxycarbonyl L-methionine cyclopentyl ester (53 g.), TFA (200 ml.), triethylsilane (39 g.) and dichloromethane (2 L.) was stirred at ambient temperature for 2 hours, evaporated to dryness and then converted to the hydrochloride salt to give L-methionine cyclopentyl ester as a white crystalline solid (40.5 g.).

reactant | N-tert-butoxycarbonyl L-methionine cyclopentyl ester | 53 g | C1(CCCC1)OC([C@@H](NC(=O)OC(C)(C)C)CCSC)=O | C15H27NO4S
reactant | TFA | 200 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 39 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | L-methionine cyclopentyl ester | C1(CCCC1)OC([C@@H](N)CCSC)=O | C10H19NO2S
